US06046210
7-Ethoxycarbonylmethyl-2-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline
A stirred, ice-cooled solution of 7-methoxycarbonylmethyl-2-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline (0.202 g, 0.46 mmol) in ethanol (10 ml) was treated with concentrated sulfuric acid (0.53 ml, 0.53 mmol). The mixture was heated at reflux for 2 h. The solvent was evaporated in vacuo and the residue was dissolved in ethyl acetate (30 ml) and saturated aqueous sodium bicarbonate solution (30 ml). The organic phase was separated and washed with brine. Drying (Na2SO4) and evaporation in vacuo afforded an orange oil which was chromatographed on silica using 50-100% ethyl acetate-pentane gradient elution to afford the title compound as a colourless oil (120 mg, 56%).

reactant | 7-methoxycarbonylmethyl-2-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline | 0.46 mmol, 0.202 g | COC(=O)CC1=CC=C2CCN(CC2=C1)CCCCNC(C1=CC=C(C=C1)C1=CC=CC=C1)=O | C29H32N2O3
reactant | sulfuric acid | 0.53 mmol, 0.53 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 7-Ethoxycarbonylmethyl-2-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline | 120 mg, 56% | C(C)OC(=O)CC1=CC=C2CCN(CC2=C1)CCCCNC(C1=CC=C(C=C1)C1=CC=CC=C1)=O | C30H34N2O3
